US06492355B1
a) 3-Chloro-2-nitro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide
To a suspension of 3-chloro-2-nitrobenzoic acid (2.68 g) in dichloromethane (10 ml) at 0° C. was added oxalyl chloride (3 ml) and dimethylformamide (1 drop). The resulting mixture was stirred at room temperature under a nitrogen atmosphere for 1 hour, then concentrated under reduced pressure to yield a solid. The solid was dissolved in dichloromethane (10 ml) and cooled to 0° C. A solution of 1-adamantanemethylamine (2.19 g) and N,N-diisopropylethylamine (11 ml) in dichloromethane (10 ml) was added portion-wise and the resulting solution allowed to stir at room temperature under a nitrogen atmosphere for 2 h. The reaction mixture was poured into water and the organic phase separated and washed with 2N hydrochloric acid, 10% aqueous sodium hydroxide and saturated brine. The organic phase was then dried over sodium sulfate, filtered and concentrated under reduced pressure and the resulting solid recrystallized from iso-propanol to afford the subtitle compound as a solid (3.52 g).

reactant | 3-chloro-2-nitrobenzoic acid | 2.68 g | ClC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C7H4ClNO4
reactant | oxalyl chloride | 3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-adamantanemethylamine | 2.19 g | C12(CC3CC(CC(C1)C3)C2)CN | C11H19N
reactant | N,N-diisopropylethylamine | 11 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-Chloro-2-nitro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 3.52 g | ClC=1C(=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=CC1)[N+](=O)[O-] | C18H21ClN2O3
